US07550497B2
a) 4-[4-Chloro-5-(4-ethoxyphenyl)imidazol-1-yl]benzenesulfonamide Sodium Salt
To a suspension of 4-[4-chloro-5-(4-ethoxyphenyl)imidazol-1-yl]benzenesulfonamide (1 g, 2.89 mmol) (obtained as described in WO 00/23426) in EtOH (55 mL), NaOH powder (115 mg, 2.89 mmol) was added under argon atmosphere, and the resulting mixture was stirred at room temperature for 2 h. The mixture was concentrated to dryness and a crude product was obtained, which was directly used in the following reaction.

reactant | 4-[4-chloro-5-(4-ethoxyphenyl)imidazol-1-yl]benzenesulfonamide | 2.89 mmol, 1 g | ClC=1N=CN(C1C1=CC=C(C=C1)OCC)C1=CC=C(C=C1)S(=O)(=O)N | C17H16ClN3O3S
reactant | NaOH | 2.89 mmol, 115 mg | [OH-].[Na+]
solvent | EtOH | 55 mL | CCO | C2H6O
product | 4-[4-Chloro-5-(4-ethoxyphenyl)imidazol-1-yl]benzenesulfonamide Sodium Salt | [Na+].ClC=1N=CN(C1C1=CC=C(C=C1)OCC)C1=CC=C(C=C1)S(=O)(=O)[NH-] | InChI=1S/C17H15ClN3O3S.Na/c1-2-24-14-7-3-12(4-8-14)16-17(18)20-11-21(16)13-5-9-15(10-6-13)25(19,22)23;/h3-11H,2H2,1H3,(H-,19,22,23);/q-1;+1
